US06599942B1
A solution of the title E compound, N-{4-[3-(4-fluorobenzenesulfonyl)-4-hydroxyphenoxy]-3,5-dimethylphenyl}oxamic acid ethyl ester (773 mg, 1.58 mmol) in 15 mL of EtOH is treated with aqueous 1N sodium hydroxide (NaOH; 4.75 mL, 4.75 mmol) at RT. After 1 h, the reaction is quenched with aqueous 1N HCl (5.5 mL) and the product is taken up in EtOAc, washed with brine, dried over anhydrous Na2SO4 and concentrated. The product is triturated with Et2O and dried in vacuo to afford N-{4-[3-(4-fluorobenzenesulfonyl)-4-hydroxyphenoxy]-3,5-dimethylphenyl}oxamic acid: NMR (DMSO-d6) 2.06 (s, 6H), 6.88 (d, 1H, J=9), 7.03 (dd, 1H, J=9,3), 7.13 (d, 1H, J=3), 7.43 (app t, 2H, J=9), 7.61 (s, 2H), 7.94 (dd, 2H, J=9,5), 10.5 (s, 1H), 10.69 (s, 1H); IR (KBr) 1240, 1481, 1685, 1764; ESI-MS 458 [M−1]−.

reactant | N-{4-[3-(4-fluorobenzenesulfonyl)-4-hydroxyphenoxy]-3,5-dimethylphenyl}oxamic acid ethyl ester | 1.58 mmol, 773 mg | C(C)OC(C(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)S(=O)(=O)C1=CC=C(C=C1)F)C)=O | C24H22FNO7S
reactant | sodium hydroxide | 4.75 mmol, 1N, 4.75 mL | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | N-{4-[3-(4-fluorobenzenesulfonyl)-4-hydroxyphenoxy]-3,5-dimethylphenyl}oxamic acid | FC1=CC=C(C=C1)S(=O)(=O)C=1C=C(OC2=C(C=C(C=C2C)NC(C(=O)O)=O)C)C=CC1O | C22H18FNO7S
